US08957093B2
Step 1: tert-Butyl 2-bromobenzoate
To a solution of 2-bromobenzoic acid (8.08 g, 40.2 mmol), DMAP (0.492 g, 8.0 mmol) and t-BuOH (9.3 mL, 80.4 mmol) in dry DCM (300 mL) under argon, was added DCC (9.96 g, 48.2 mmol). The reaction mixture was stirred at room temperature for 20 h. The resulting mixture was filtered and the filtrate was evaporated in vacuo. The crude mixture was dissolved in AcOEt (300 mL) and washed with saturated aqueous NaHCO3 (261), brine and then dried over Na2SO4. After filtration, solvent was evaporated. The crude product was purified by flash chromatography on silica gel (AcOEt/hexane 0→30%) to obtain the title compound.

reactant | 2-bromobenzoic acid | 40.2 mmol, 8.08 g | BrC1=C(C(=O)O)C=CC=C1 | C7H5BrO2
reactant | t-BuOH | 80.4 mmol, 9.3 mL | CC(C)(C)O | C4H10O
reactant | DCC | 48.2 mmol, 9.96 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 8.0 mmol, 0.492 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 2-bromobenzoate | BrC1=C(C(=O)OC(C)(C)C)C=CC=C1 | C11H13BrO2
